US09085583B2
To a 100 mL round-bottom flask was added (±)-tert-butyl 1-(1-methoxy-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (0.958 g, 3.01 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.440 g, 4.51 mmol). The flask was vac/purged 3× with N2 then THF (17 mL) were added and the reaction was cooled to −40° C. isopropylmagnesium chloride (4.51 ml, 9.03 mmol) was added dropwise and the reaction was mixed at that temperature for 1 h then warmed to 0° C. for 1 h then quenched with 1N HCl, extracted with EtOAc. The org layer was washed with water then brine, dried over Na2SO4, filtered, concentrated, deposited onto silica gel with aid of DCM, and purified by CC using 25% EtOAc in Hex as eluent to provide (±)-tert-butyl 1-(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate (0.630 g, 60.3%). LRMS (M+H+) m/z: calcd 348.41. found 348.2.

reactant | (±)-tert-butyl 1-(1-methoxy-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 3.01 mmol, 0.958 g | COC(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)=O | C17H22N2O4
reactant | N,O-dimethylhydroxylamine hydrochloride | 4.51 mmol, 0.440 g | Cl.CNOC
reactant | isopropylmagnesium chloride | 9.03 mmol, 4.51 ml | C(C)(C)[Mg]Cl
product | (±)-tert-butyl 1-(1-(methoxy(methyl)amino)-1-oxopropan-2-yl)-2-methyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylate | 0.630 g, 60.3% | CON(C(C(C)N1C(=C(C=2C1=NC=CC2)C(=O)OC(C)(C)C)C)=O)C | C18H25N3O4
